US05977378
76.5 g of 20% strength by weight sodium ethylate solution were initially introduced into a 250 ml 4-necked flask and 41.9 g of ethyl 2,4-diketoheptanecarboxylate were added in the course of 15 minutes. The solution thus prepared was added to a mixture of methylhydrazine (10.4 g), acetic acid (13.5 g) and ethanol (20 ml) at an internal temperature of 30 to 40° C. in the course of 45 minutes. When the addition was complete, the mixture was subsequently stirred at room temperature for a further hour and the ethanol was then distilled off. 100 ml of toluene and 100 ml of water were then added, the phases which form were separated and the aqueous phase was extracted twice more with 50 ml of toluene each time. The combined toluene extracts were reextracted with 100 ml of water, dried and concentrated under a slight vacuum. 31 g of isomer-free ethyl 1-methyl-3-n-propyl-pyrazole-5-carboxylate having a boiling point of 125 to 128° C. under a pressure of 13 mm were obtained by fractional distillation. This corresponds to a yield of 75% of theory. The undesirable isomer ethyl 1-methyl-5-n-propyl-pyrazole-3-carboxylate was obtained as a second fraction in a yield of 6.2 g (=15% of theory). The boiling point of this isomer was 166 to 168° C. under a pressure of 13 mm.

reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | ethyl 2,4-diketoheptanecarboxylate | 41.9 g | O=C(CC(=O)OCC)CC(CCC)=O | C10H16O4
reactant | methylhydrazine | 10.4 g | CNN | CH6N2
reactant | acetic acid | 13.5 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 1-methyl-3-n-propyl-pyrazole-5-carboxylate | 31 g, yield of 75% | CN1N=C(C=C1C(=O)OCC)CCC | C10H16N2O2
